US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.70 mmol), 3,5,5-trimethylhexanoyl chloride (0.14 mL, 0.73 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (15 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3,5,5-trimethylhexanamide (0.25 g). MS (ESI) m/z 356 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.70 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | 3,5,5-trimethylhexanoyl chloride | 0.73 mmol, 0.14 mL | CC(CC(=O)Cl)CC(C)(C)C | C9H17ClO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3,5,5-trimethylhexanamide | 0.25 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CC(CC(C)(C)C)C)=O | C23H33NO2
